US05958942
ii) Synthesis of 4,5-dihydro-4-[5-(trifluoromethane-sulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene
To a solution of 2.52 g (6.91 mmol) of 5-[N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl] imidazo[1,2-a]pyridine in 8 ml of acetic acid was added 7.8 ml (103.7 mmol) of a 37% aqueous solution of formalin. The mixture was heated at 100° C. for 30 minutes. The solvent was then distilled off under reduced pressure. The residue was dissolved in 50 ml of a saturated aqueous solution of potassium carbonate. This solution was neutralized, under ice-cooling, with 1N HCl, which was extracted twice with 100 ml of chloroform. The organic layer was dried over magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by silicagel column chromatography to give 1.79 g of the desired compound (69.0%, colorless liquid).

reactant | 5-[N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl] imidazo[1,2-a]pyridine | 6.91 mmol, 2.52 g | FC(S(=O)(=O)NCCCCCNCC1=CC=CC=2N1C=CN2)(F)F | C14H19F3N4O2S
reactant | formalin | C=O | CH2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-4-[5-(trifluoromethane-sulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene | 1.79 g, 69.0% | FC(S(=O)(=O)NCCCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | C15H19F3N4O2S
